US04596870
1-(3-Methylphenylthio)methyl-5-fluoropyrimidin-2-one
3-(Chloromethylthio)toluene (6.5 mmol) was added to a solution of 5-fluoropyrimidin-2-one (6.5 mmol) and triethylamine (6.5 mmol) in dichloromethane (75 ml) and the resultant mixture heated under reflux for 2 days. The solvent was then distilled off, the residue triturated with water and the residual material extracted with CCl4. Evaporation of the extracts and crystallisation of the residue from ethyl acetate gave the pure product; 0.40 g (25%), m.p. 124° C. (Found: C57.42; H4.63. Calc. for C12H11FN2OS: C57.59; H4.43) 1H NMR (DMSO d6); δ 2.28 (Me), 5.17(CH2), 7.2 (Ph), 8.05 (H-4), 8.70 (H-6). IR (KBr): 1670 cm-1 (CO), MS [70 eV, m/z (% rel. int.)]: 250 (8,M), 137(11), 136)36), 135(10), 128(7), 127(100), 100(34), 91(9).

reactant | 3-(Chloromethylthio)toluene | 6.5 mmol | ClCSC=1C=C(C=CC1)C | C8H9ClS
reactant | 5-fluoropyrimidin-2-one | 6.5 mmol | FC=1C=NC(NC1)=O | C4H3FN2O
reactant | triethylamine | 6.5 mmol | C(C)N(CC)CC | C6H15N
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1-(3-Methylphenylthio)methyl-5-fluoropyrimidin-2-one | CC=1C=C(C=CC1)SCN1C(N=CC(=C1)F)=O | C12H11FN2OS
